US20010016659A1
Entry 12: 4-Chloropyridine-2-carbonyl chloride HCl salt was reacted with ammonia according to Method A2, Step 3b to form 4-chloro-2-pyridinecarboxamide. 4-Chloro-2-pyridinecarboxamide was reacted with 3-aminophenol according to Method A2, Step 4 using DMAC in place of DMF to give 3-(2-carbamoyl-4-pyridyloxy)aniline. According to Method C2a, 2-methoxy-5-(trifluoromethyl)aniline was reacted with phosgene followed by 3-(2-carbamoyl-4-pyridyloxy)aniline to afford the urea.

reactant | 4-Chloro-2-pyridinecarboxamide | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
solvent | DMAC | CC(=O)N(C)C | C4H9NO
product | 3-(2-carbamoyl-4-pyridyloxy)aniline | C(N)(=O)C1=NC=CC(=C1)OC=1C=C(N)C=CC1 | C12H11N3O2
